US07816522B2
(19a) 2-methoxy-6-methylpyridine-4-carbaldehyde
To 50 ml of dichloromethane containing 1.67 ml of oxalyl chloride there was added dropwise 1.36 ml of DMSO at −78° C. under a nitrogen atmosphere, and the mixture was stirred at −78° C. for 30 minutes. Next, 10 ml of a dichloromethane solution containing (2-methoxy-6-methyl-pyridin-4-yl)methanol was added dropwise, and the mixture was stirred at −78° C. for 30 minutes. After then adding 6.7 ml of triethylamine to the reaction mixture over a period of 10 minutes, the mixture was stirred for 30 minutes while raising the temperature from −78° C. to room temperature. Water was added to the reaction mixture, and extraction was performed with dichloromethane. The organic layer was washed with saturated brine and then dried over anhydrous magnesium sulfate. The desiccating agent was filtered off and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate-heptane) to give the title compound (1.9 g) as a light yellow oil.

reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 1.36 ml | CS(=O)C | C2H6OS
reactant | (2-methoxy-6-methyl-pyridin-4-yl)methanol | COC1=NC(=CC(=C1)CO)C | C8H11NO2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | Water | O | H2O
solvent | triethylamine | 6.7 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-methoxy-6-methylpyridine-4-carbaldehyde | 1.9 g | COC1=NC(=CC(=C1)C=O)C | C8H9NO2
